US06251905B1
1-[4-(Amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 5.99 g (16.0 mmol) of 1,2-dihydro-3-methyl-1-[4-(phthalimido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 150 ml of ethanol was added 2.40 g (48.0 mmol) of hydrazine monohydrate. The mixture was heated for one hour under reflux. After cooling, and the resulting precipitates were filtered off. The filtrate was concentrated to give the residue, water was water, extracted with chloroform (three times). The extract solution was dried over anhydrous magnesium sulfate. The solvent was distilled off to give 3.17 g of the desired compound (81.1%, pale yellow solid).

reactant | 1,2-dihydro-3-methyl-1-[4-(phthalimido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 16.0 mmol, 5.99 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCN2C(C=3C(C2=O)=CC=CC3)=O)=O | C21H18N4O3
reactant | hydrazine monohydrate | 48.0 mmol, 2.40 g | O.NN
reactant | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-[4-(Amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 3.17 g, 81.1% | NCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C13H16N4O
